* /Users/atorralba/Documents/LTspice/Circuits/D_Latch_Symb.asc
.SUBCKT D_LATCH E D Q QN
+ params: vhigh=1 vlow = 0 ref = 0.5 td = 10p tau=2p
A1 0 N001 0 E 0 0 N002 0 AND vhigh=1 vlow=0 ref=0.5 td=10p tau=2p
A2 0 E 0 D 0 0 N003 0 AND vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A3 0 Q 0 N003 0 QN 0 0 OR vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A4 0 N002 0 QN 0 Q 0 0 OR vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A5 D 0 0 0 0 N001 0 0 BUF vhigh={vhigh} vlow={vlow} ref={ref} td=0.1 tau=0
.ENDS D_LATCH

.SUBCKT D_FF D CLK Q QN
A6 D 0 CLK 0 0 QN Q 0 DFLOP vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
.ENDS D_FF

.SUBCKT MUX_21_CMOS A B S O ON
A1 0 A 0 S 0 0 N001 0 AND vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A2 0 N003 0 B 0 0 N002 0 AND vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A5 S 0 0 0 0 N003 0 0 BUF vhigh={vhigh} vlow={vlow} ref={ref} td=0.1 tau=0
A3 0 N001 0 N002 0 ON O 0 OR vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
.ENDS MUX_21_CMOS

.SUBCKT DEMUX_12 AB S A B
A1 0 AB 0 S 0 0 A 0 AND vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A2 0 N001 0 AB 0 0 B 0 AND vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
A5 S 0 0 0 0 N001 0 0 BUF vhigh={vhigh} vlow={vlow} ref={ref} td={td} tau={tau}
.ENDS DEMUX_12
