********************************************************************************
* Author: Vlad Ionescu
* Copyright (C) 2008-2019, Vlad Ionescu, <imbvlad@gmail.com>
*
* This library is free software; you can redistribute it and/or
* modify it under the terms of the GNU Library General Public
* License as published by the Free Software Foundation; either
* version 2 of the License, or (at your option) any later version.
*
* This library is distributed in the hope that it will be useful,
* but WITHOUT ANY WARRANTY; without even the implied warranty of
* MERCHANTABILITY or FITNESS FOR A PARTICULAR PURPOSE.  See the GNU
* Library General Public License for more details.
*
* You should have received a copy of the GNU Library General Public
* License along with this library; if not, write to the
* Free Software Foundation, Inc., 59 Temple Place - Suite 330,
* Boston, MA 02111-1307, USA.
*
********************************************************************************
********************************************************************************
*
* For more info, go to:
*  https://ltspicegoodies.ltwiki.org
* or visit
*  https://ltwiki.org/?title=Filter_Page_and_LTspice_Goodies
* and choose the link for "Filter"
*
********************************************************************************
********************************************************************************
*
*  A simplified and multi-functional approach to mathematical functions. Simply
* place Math2(r) symbol in the schematic and then choose the desired math
* function through the drop-down menu in the symbol's properties. Or simply
* right-click on it's name and rename it, for example from '+' to 'x'.
*  The reason for this is usability, easier workflow and, not lastly, a modular
* approach, meaning many other functions can be added to the list without the
* need to create a symbol for each, while still being recognizeable.
*
*   Vlad, ©2008 - today
*
********************************************************************************
*
* [SYMBOL]
*
* A,B = inputs, floating;
* OUT = output, Rout=1.
*
*
* [GENERAL]
*
* - Math2(r) means symbol with two variables. The following functions are
* available:
*
*     function  | list name
* --------------+------------
*       a+b     |     +
*       a-b     |     -
*       b-a     |     -+
*       a*b     |     x
*       a/b     |     /
*       b/a     |     \
*       a==b    |     ~~
*       a<>b    |     <>
*   atan2(a,b)  |   atan2
*   hypot(a,b)  |   hypot
*     max(a,b)  |    max
*     min(a,b)  |    min
*     mod(a,b)  |    mod
*
*
* [PARAMETERS]
*
* a,b     = control the signum of the inputs for atan2();
* dc [V]  = "DC" adjustment for atan2();
*
* - Hidden:
*
* lim   [V]     = internal limits to avoid clipping, default 1g;
* fmax  [Hz]    = estimated bandwidth for implicit methods, default 1meg;
* tripdv,tripdt	= LTspice's specific for B-sources, default <0,0>.
*
************************
*
*       a+b
*
************************
.subckt + a b out
G1 0 out a 0 1
G2 0 out b 0 1
R1 0 out 1
.ends +
************************
*
*       a-b
*
************************
.subckt - a b out
G1 0 out a b 1
R1 out 0 1
.ends -
************************
*
*       b-a
*
************************
.subckt | a b out
G1 0 out b a 1
R1 0 out 1
.ends |
************************
*
*       a*b
*
************************
.subckt x a b out params: lim=1g
A 0 a b 0 0 0 out 0 OTA Vhigh={lim} Vlow={-lim} Rout=1 linear
.ends x
************************
*
*   a/b, implicit
*
************************
.subckt / a b out params: lim=1g fmax=1meg
Adiv 0 b out 0 0 0 comp 0 OTA Vhigh={lim} vlow={-lim} Rout=1 linear
Alf comp a 0 0 0 0 out 0 OTA Vhigh={lim} Vlow={-lim} Rout=1g Cout={1n/fmax} linear
.ends /
************************
*
*   b/a, implicit
*
************************
.subckt \ a b out params: lim=1m fmax=1meg
Adiv 0 a out 0 0 0 comp 0 OTA Vhigh={lim} vlow={-lim} Rout=1 linear
Alf comp b 0 0 0 0 out 0 OTA Vhigh={lim} Vlow={-lim} Rout=1g Cout={1n/fmax} linear
.ends \
************************
*
*       a==b
*
************************
*
* [NOTES]
*
* - Names with "=" won't be recognized by LTspice, and using "==" will make the
* name visible in the list but not usable. Thus, "~~" was chosen, hopefully, as
* a visually similar alternative.
*
************************
.subckt ~~ a b out params: tripdt=0
A1 a b 0 0 0 out 0 0 SCHMITT vlow=-1 vt=0 vh=0 tripdt={tripdt}
A2 b a 0 0 0 out 0 0 SCHMITT vlow=-1 vt=0 vh=0 tripdt={tripdt}
.ends ~~
************************
*
*       a!=b
*
************************
.subckt !~ a b out params: tripdt=0
A1 a b 0 0 0 0 out 0 SCHMITT vhigh=2 vt=0 vh=0 tripdt={tripdt}
A2 b a 0 0 0 0 out 0 SCHMITT vhigh=2 vt=0 vh=0 tripdt={tripdt}
.ends !~
************************
*
*     atan2(a,b)
*
************************
.subckt atan2 a b out params: dc=0 a=1 b=1 tripdv=0 tripdt=0
B1 0 out I=atan2(sgn(a)*v(a),sgn(b)*v(b))+dc rpar=1 tripdv={tripdv} tripdt={tripdt}
.ends atan2
************************
*
* hypot(a,b), implicit
*
************************
.subckt hypot a b out params: lim=1g fmax=1meg
Aa 0 a a 0 0 0 sq 0 ota vhigh={lim} vlow={-lim} rout=1 linear
Ab 0 b b 0 0 0 sq 0 ota vhigh={lim} vlow={-lim} linear
Afb 0 out out 0 0 0 fb 0 ota vhigh={lim} vlow=0 rout=1 linear
Aout fb sq 0 0 0 0 out 0 ota vhigh={lim} vlow=0 rout=1g cout={1n/fmax}
.ends hypot
************************
*
*     max(a,b)
*
************************
.subckt max a b out params: lim=1g
Aa 0 a 2 0 0 0 out 0 ota vhigh={lim} vlow={-lim} rout=1 linear
Ab 0 b 1 0 0 0 out 0 ota vhigh={lim} vlow={-lim} linear
Asel a b 0 0 0 1 2 0 SCHMITT vt=0 vh=0
.ends max
************************
*
*      min(a,b)
*
************************
.subckt min a b out params: lim=1g
Aa 0 a 1 0 0 0 out 0 ota vhigh={lim} vlow={-lim} rout=1 linear
Ab 0 b 2 0 0 0 out 0 ota vhigh={lim} vlow={-lim} linear
Asel a b 0 0 0 1 2 0 SCHMITT vt=0 vh=0
.ends min
************************
*
*     mod(a,b)
*
************************
.subckt mod a b out
B1 0 out I=v(a)-int(v(a)/v(b))*v(b) rpar=1 tripdv={tripdv} tripdt={tripdt}
.ends mod
********************************************************************************
*
* [UPDATES]
*
* 2013.02.03	- Minor modifications and corrections to x2.
* 2013.02.19	- Minor corrections in text.
*		          - Added -+ (b-a) and /* (b/a), increasing flexibility in design,
*		          along with a new symbol, Math2rT.asy.
* 2014.04.08	- Modified mod to have int() instead of floor(), faster.
* 2016.03.08	- Added/replaced the default a*b to include the undocumented
*		          G-source with {Vto} and {dir}.
*		          - Modified /* to be /x.
* 2018.12.14  - Long forgotten OTA replacement for multiplication and division.
*             - Renamed -+ to |.
*             - Renamed /x to \.
*             - Renamed <> to !~.
*             - Modified x, /, \, and hypot to be implicit methods.
*             - Modified min and max, no longer depend on temporal tweaks.
*             - Modified ~~ and !~ from B-sources to A-devices.
*             - Corrected long-standing typo for MOD.
*             - Removed x2, x3, and x4.
*             - GPL'd.
* 2019.03.04  - Corrected accidental reversion of min and max.
*
********************************************************************************
